US07307084B2
22. 3Methoxymethyl-2-methyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Dimethylamide
A suspension of 0.20 g (0.6 mmol) 7-hydroxy-6-(3-hydroxy-3-phenyl-propyl)-3-methoxymethyl-2-methyl-3H-benzoimidazole-5-carboxylic acid dimethylamide in 2 ml 85% ortho-phosphorlc acid was heated to 80° C. After 90 min stirring, the reaction was cooled to room temperature, poured into ice/water and neutralized with 10M sodium hydroxide. The water layer was extracted with dichloromethane, the organic layers were dried over magnesium sulphate and concentrated in vacuo. The residue was crystallized from ethyl acetate/petroleum ether to afford 130 mg (59%) of the title compound as a beige powder. m.p. 213°-215° C.

reactant | 7-hydroxy-6-(3-hydroxy-3-phenyl-propyl)-3-methoxymethyl-2-methyl-3H-benzoimidazole-5-carboxylic acid dimethylamide | 0.6 mmol, 0.20 g | CN(C(=O)C1=CC2=C(N=C(N2COC)C)C(=C1CCC(C1=CC=CC=C1)O)O)C | C22H27N3O4
reactant | sodium hydroxide | 10M | [OH-].[Na+]
product | 3Methoxymethyl-2-methyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Dimethylamide | 130 mg, 59% | CN(C(=O)C=1C=2CCC(OC2C2=C(N(C(=N2)C)COC)C1)C1=CC=CC=C1)C | C22H25N3O3
